US07820837B2
ethyl 8-hydroxy-2,3-dihydro-1-benzoxepine-4-carboxylate
Ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate (2.5 g) was dissolved in trifluoroacetic acid (10 mL), and 42% hydrobromic acid (0.5 mL) was added, and the mixture was heated at 60° C. for 30 min. The mixture was concentrated and extracted with ethyl acetate. The organic layer was washed with water and back-extracted with 1 M aqueous sodium hydroxide solution. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulfate, and the solvent was evaporated. The residue was dissolved in ethanol (100 mL), and thionyl chloride (1 mL) was added dropwise under ice-cooling. The mixture was stirred overnight at room temperature, and the solvent was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane) to give crude crystals. The crystals were recrystallized from ethyl acetate-hexane to give the title compound (0.39 g) as crystals.

reactant | Ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate | 2.5 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(CCO2)C(=O)OCC)C=C1 | C20H20O4
reactant | hydrobromic acid | 0.5 mL | Br | BrH
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 8-hydroxy-2,3-dihydro-1-benzoxepine-4-carboxylate | 0.39 g | OC1=CC2=C(C=C(CCO2)C(=O)OCC)C=C1 | C13H14O4
